US08106221B2
Step 1. 5-Hydroxy-N-methoxy-N-methylpentanamide
To a stirred suspension of N,O-dimethylhydroxyamine hydrochloride (14.6 g, 150 mmol) in dry dichloromethane (150 mL) was added a solution of trimethylaluminum (2.0 M solution in toluene, 75 mL, 150 mmol) drop wise at room temperature. After stirring for 30 min, tetrahydropyran-2-one (10 g, 100 mmol) in dry dichloromethane (50 mL) was added drop wise. The reaction mixture was stirred over night. After cooling to 0° C., 1N HCl (80 mL, 80 mmol) was added slowly (exothermic reaction), diluted with dichloromethane (200 mL). The two layers were separated and the aqueous layer was extracted with dichloromethane twice. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (120 g column, 0% methanol in dichloromethane to 20% methanol in dichloromethane) to give product (9.7 g, 60%). 1H NMR (CDCl3) δ 3.68 (s, 3H), 3.63 (t, J=6.1 Hz, 2H), 3.17 (s, 3H), 2.46 (t, J=7.0 Hz, 2H), 1.69-1.74 (m, 2H), 1.58-1.64 (m, 2H). MS EI m/z 162 (M+H)+.

reactant | N,O-dimethylhydroxyamine hydrochloride | 150 mmol, 14.6 g | Cl.CNOC
reactant | trimethylaluminum | 150 mmol, 2.0 M, 75 mL | C[Al](C)C
reactant | tetrahydropyran-2-one | 100 mmol, 10 g | O1C(CCCC1)=O | C5H8O2
reactant | HCl | 80 mmol, 1N, 80 mL | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 5-Hydroxy-N-methoxy-N-methylpentanamide | 9.7 g, 60% | OCCCCC(=O)N(C)OC | C7H15NO3
